US08735440B2
Step 2: 6-bromo-9-(2-hydroxy-3-phenoxypropyl)-9H-pyrido[3,4-b]indole-3-carbonitrile (P7C3-S192)
6-bromo-9H-pyrido[3,4-b]indole-3-carbonitrile (21.3 mg, 0.785 mmol) was added to a flask and purged with nitrogen. THF was added and the solution was cooled to −78° C. Methyl lithium (1.6 M in Et2O) (1.1 eq) was added and was stirred for 30 minutes. 1,2-epoxy-3-phenoxypropane (0.011 mL, 0.824 mmol) was added with gradual warming to 45° C. Upon completion the reaction was quenched with 1 N HCl and extracted 3× with EtOAc. The organic layer was washed with H2O, brine, and dried over Na2SO4. The crude mixture was purified on SiO2 (0 to 50% EtOAc/hexanes to afford the desired product in 90% yield.

reactant | 6-bromo-9H-pyrido[3,4-b]indole-3-carbonitrile | 0.785 mmol, 21.3 mg | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C#N | C12H6BrN3
reactant | Methyl lithium | 1.6 M, 1.1 eq | C[Li]
reactant | 1,2-epoxy-3-phenoxypropane | 0.824 mmol, 0.011 mL | O1CC1COC1=CC=CC=C1 | C9H10O2
product | 6-bromo-9-(2-hydroxy-3-phenoxypropyl)-9H-pyrido[3,4-b]indole-3-carbonitrile | 90% yield | BrC=1C=C2C3=C(N(C2=CC1)CC(COC1=CC=CC=C1)O)C=NC(=C3)C#N | C21H16BrN3O2
